US06943188B2
(i) Methyl 2-[(2-hydroxybenzoyl)amino]-2-methylpropanoate
To a solution of 2-(chlorocarbonyl)phenyl acetate (20 mmol, 3.96 g) in toluene (50 ml) were N-ethyl-N,N-diisopropylamine (22 mmol, 2.84 g) and 2-methylalanine (22 mmol, 2.27 g) added. After stirring the reaction mixture at room temperature overnight, the mixture was diluted with 250 ml toluene and was washed with 1.8% HCl/aq (250 ml) and sat. NaCl/aq (250 ml). The organic phase was dried over Na2SO4 and concentrated under reduced pressure. The residue was dissolved in MeOH (50 mL) and 3 drops of conc. H2SO4 were added. The mixture was refluxed for 2 hours and concentrated under reduced pressure. The residue was dissolved in 250 mL EtOAc and washed with sat.NaHCO3/aq (250 ml) and sat. NaCl/aq (250 ml). The organic phase was dried over Na2SO4 and concentrated at reduced pressure. The resulting crude material was used without further purification.

reactant | 2-(chlorocarbonyl)phenyl acetate | 20 mmol, 3.96 g | C(C)(=O)OC1=C(C=CC=C1)C(=O)Cl | C9H7ClO3
reactant | N-ethyl-N,N-diisopropylamine | 22 mmol, 2.84 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-methylalanine | 22 mmol, 2.27 g | CC(N)(C)C(=O)O | C4H9NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-[(2-hydroxybenzoyl)amino]-2-methylpropanoate | OC1=C(C(=O)NC(C(=O)OC)(C)C)C=CC=C1 | C12H15NO4
